### PR TITLE
[Merged by Bors] - feat(Analysis/Normed): relate compactness of operators to locally compact spaces

### PR DESCRIPTION
**Pull request by b-mehta**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Normed/Operator/Compact.lean [hunk 1]
```diff
@@ -68,6 +68,17 @@ theorem isCompactOperator_zero {M₁ M₂ : Type*} [Zero M₁] [TopologicalSpace
...
+/--
+The identity of a topological additive group is a compact operator implies it is weakly
+locally compact.
+-/
+lemma WeaklyLocallyCompactSpace.of_isCompactOperator_id
+    {M₁ : Type*} [TopologicalSpace M₁] [AddCommGroup M₁] [ContinuousAdd M₁]
+    (h : IsCompactOperator (id : M₁ → M₁)) : WeaklyLocallyCompactSpace M₁ where
+  exists_compact_mem_nhds x := by
+    obtain ⟨V, hV, hVK⟩ := h
+    exact ⟨x +ᵥ V, hV.vadd _, vadd_mem_nhds_self.2 hVK⟩
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Operator/Compact.lean]: I think the version in #35196 is better since it goes directly to `LocallyCompactSpace`

File: Mathlib/Analysis/Normed/Module/FiniteDimension.lean [hunk 2]
```diff
@@ -540,6 +541,23 @@ lemma ProperSpace.of_locallyCompact_module [Nontrivial E] [LocallyCompactSpace E
     apply IsClosedEmbedding.locallyCompactSpace this
   .of_locallyCompactSpace 𝕜
 
+/-- If the identity operator of a Banach space over a nontrivially normed field is compact,
+then the space is finite dimensional. -/
+lemma FiniteDimensional.of_isCompactOperator_id (h : IsCompactOperator (id : E → E)) :
+    FiniteDimensional 𝕜 E := by
+  have := WeaklyLocallyCompactSpace.of_isCompactOperator_id h
+  exact FiniteDimensional.of_locallyCompactSpace 𝕜
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Module/FiniteDimension.lean:557]: I think we'll take the version in the other PR (appropriately amended)

File: Mathlib/Analysis/Normed/Module/FiniteDimension.lean [hunk 3]
```diff
@@ -540,6 +541,23 @@ lemma ProperSpace.of_locallyCompact_module [Nontrivial E] [LocallyCompactSpace E
...
+
+omit [CompleteSpace 𝕜] in
+/-- Any compact operator from a normed space to a locally compact space is compact. -/
+lemma isCompactOperator_of_locallyCompactSpace [LocallyCompactSpace F] {T : E →L[𝕜] F} :
+    IsCompactOperator (T : E → F) := by
+  refine (isCompactOperator_iff_isCompact_closure_image_ball T.toLinearMap
+    (r := 1) (hr := by simp)).2 ?_
+  have : ProperSpace F := ProperSpace.of_locallyCompactSpace 𝕜
+  rw [isCompact_iff_isClosed_bounded, isBounded_closure_iff]
+  exact ⟨by simp, T.lipschitz.isBounded_image isBounded_ball⟩
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Module/FiniteDimension.lean]: This is nice though. Let's keep it. We can return to this PR once the other one is merged.

File: Mathlib/Analysis/Normed/Operator/Compact.lean (hunk 1 above)
Comment (b-mehta) [reply Mathlib/Analysis/Normed/Operator/Compact.lean]: Alright, I'll remove.

File: Mathlib/Analysis/Normed/Module/FiniteDimension.lean (hunk 2 above)
Comment (b-mehta) [reply Mathlib/Analysis/Normed/Module/FiniteDimension.lean:557]: Doesn't this one generalise that one, since it doesn't assume `𝕜` is locally compact?

File: Mathlib/Analysis/Normed/Module/FiniteDimension.lean [hunk 4]
```diff
@@ -549,7 +549,22 @@ theorem isCompactOperator_id_iff_finiteDimensional [LocallyCompactSpace 𝕜] :
...
```
Comment (ADedecker) [inline Mathlib/Analysis/Normed/Module/FiniteDimension.lean]: I think this should be proven as the combination of [isCompactOperator_id](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Normed/Operator/Compact.html#isCompactOperator_id) and [IsCompactOperator.comp_clm](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Normed/Operator/Compact.html#IsCompactOperator.comp_clm)

Comment (ADedecker) [reply Mathlib/Analysis/Normed/Module/FiniteDimension.lean]: Hence it should be in the main file about compact operators.

Comment (b-mehta) [reply Mathlib/Analysis/Normed/Module/FiniteDimension.lean]: I'll try that now!

File: Mathlib/Analysis/Normed/Operator/Compact.lean [hunk 5]
```diff
@@ -265,6 +265,12 @@ theorem IsCompactOperator.comp_clm [AddCommMonoid M₂] [Module R₂ M₂] {f :
   rcases hf with ⟨K, hK, hKf⟩
   exact ⟨K, hK, this hKf⟩
 
+/-- Any continuous linear map to a locally compact space is a compact operator. -/
+theorem isCompactOperator_of_locallyCompactSpace [AddCommGroup M₂] [Module R₂ M₂]
+    [IsTopologicalAddGroup M₂] [LocallyCompactSpace M₂] (T : M₁ →SL[σ₁₂] M₂) :
+    IsCompactOperator (T : M₁ → M₂) :=
+  isCompactOperator_id.comp_clm T
```
Comment (ADedecker) [inline Mathlib/Analysis/Normed/Operator/Compact.lean]: Could you also add the version where the domain is assumed locally compact?

**Review by ADedecker — COMMENTED** [review]
Thanks!

bors d+

File: Mathlib/Analysis/Normed/Operator/Compact.lean (hunk 5 above)
Comment (b-mehta) [reply Mathlib/Analysis/Normed/Operator/Compact.lean]: Added. Would you mind taking one more look, since I'm not sure I have the right names, and I added a deprecation for another name (since it didn't mention "id")

File: Mathlib/Analysis/Normed/Operator/Compact.lean [hunk 6]
```diff
@@ -74,9 +74,16 @@ theorem isCompactOperator_id_iff_locallyCompactSpace {E : Type*}
   ⟨fun ⟨_, hK, hK0⟩ ↦ hK.locallyCompactSpace_of_mem_nhds_of_addGroup hK0,
     fun _ ↦ exists_compact_mem_nhds 0⟩
 
-alias ⟨IsCompactOperator.locallyCompactSpace, isCompactOperator_id⟩ :=
+alias ⟨LocallyCompactSpace.of_isCompactOperator_id, _⟩ :=
   isCompactOperator_id_iff_locallyCompactSpace
 
+@[deprecated (since := "2026-03-04")] alias IsCompactOperator.locallyCompactSpace :=
+  LocallyCompactSpace.of_isCompactOperator_id
```
Comment (ADedecker) [inline Mathlib/Analysis/Normed/Operator/Compact.lean:81]: Could you do the same renaming for `IsCompactOperator.finiteDimensional`?

File: Mathlib/Analysis/Normed/Operator/Compact.lean [hunk 7]
```diff
@@ -277,6 +284,16 @@ theorem IsCompactOperator.clm_comp [AddCommMonoid M₂] [Module R₂ M₂] [AddC
     IsCompactOperator (g ∘ f) :=
   hf.continuous_comp g.continuous
 
+/-- Any continuous linear map to a locally compact space is a compact operator. -/
+theorem isCompactOperator_of_locallyCompactSpace' [AddCommGroup M₂] [Module R₂ M₂]
+    [IsTopologicalAddGroup M₂] [LocallyCompactSpace M₂] (T : M₁ →SL[σ₁₂] M₂) :
+    IsCompactOperator T := (isCompactOperator_id.comp_clm T :)
+
+/-- Any continuous linear map from a locally compact space is a compact operator. -/
+theorem isCompactOperator_of_locallyCompactSpace [AddCommGroup M₂] [Module R₂ M₂]
```
Comment (ADedecker) [inline Mathlib/Analysis/Normed/Operator/Compact.lean]: What about `isCompactOperator_of_locallyCompactSpace_[dom/rng]`? Or `left/right`? Otherwise I'm fine with the primed version.

File: Mathlib/Analysis/Normed/Operator/Compact.lean (hunk 6 above)
Comment (b-mehta) [reply Mathlib/Analysis/Normed/Operator/Compact.lean:81]: good point!

File: Mathlib/Analysis/Normed/Operator/Compact.lean (hunk 7 above)
Comment (b-mehta) [reply Mathlib/Analysis/Normed/Operator/Compact.lean]: I'll go with dom/rng, thanks for the idea!

File: Mathlib/Analysis/Normed/Module/FiniteDimension.lean [hunk 8]
```diff
@@ -549,7 +549,12 @@ theorem isCompactOperator_id_iff_finiteDimensional [LocallyCompactSpace 𝕜] :
   isCompactOperator_id_iff_locallyCompactSpace.trans
     ⟨fun _ ↦ .of_locallyCompactSpace 𝕜, fun _ ↦ .of_finiteDimensional_of_complete 𝕜 E⟩
 
-alias ⟨IsCompactOperator.finiteDimensional, _⟩ := isCompactOperator_id_iff_finiteDimensional
```
Comment (ADedecker) [inline Mathlib/Analysis/Normed/Module/FiniteDimension.lean:552]: In theory this should also come with a deprecation since you changed the name, right?
